US07067517B2
2.6-dimethyl-morpholine-4-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol and 3-(2,6-dimethyl-morpholine-4-carbonyl)-1-methyl-3H-imidazol-1-ium iodide. The crude product was purified by preparative HPLC (39%, colorless oil). HPLC-MS m/z=397.1 (M+1), Rt: 4.64 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)O)(F)F | C12H8F3NO2
reactant | 3-(2,6-dimethyl-morpholine-4-carbonyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].CC1CN(CC(O1)C)C(=O)N1C=[N+](C=C1)C
product | 2.6-dimethyl-morpholine-4-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CC(OC(C1)C)C)(F)F | C19H19F3N2O4
